US04766110
A solution of 60 mmoles of pyruvic acid plus 60 mmoles of L-proline ethyl ester in redistilled chloroform is cooled to -50° C. in an acetone-dry ice bath. To this solution is added 60 mmoles of a precooled solution of dicyclohexylcarbodiimide (DCC) in cloroform and the mixture is stirred at -5° C. for 1 hour. The reaction mixture is slowly warmed to room temperature and stirred for an additional 2 hours and then stirred at 4° C. overnight. The mixture is filtered to remove dicyclohexylurea, then cooled in an ice bath. The organic phase is washed with cold water, cold 1N NaHCO3 and finally with cold saturated NaCl. The organic phase is dried over anhydrous MgSO4 and filtered. The solvent is removed with a rotary evaporator yielding N-pyruvoyl-L-proline ethyl ester.

reactant | pyruvic acid | 60 mmoles | C(C(=O)C)(=O)O | C3H4O3
reactant | L-proline ethyl ester | 60 mmoles | C(C)OC([C@H]1NCCC1)=O | C7H13NO2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-pyruvoyl-L-proline ethyl ester | C(C)OC([C@H]1N(CCC1)C(C(=O)C)=O)=O | C10H15NO4
